US05278158
To a solution of 549 mg 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide in 30 ml acetic acid, was added a catalytic amount of 10% palladium-carbon powder, and catalytic hydrogenation was performed at ordinary temperature and pressure. The catalyst was filtered off from the reaction mixture, and the solvent was distilled off from the filtrate, thus giving crude 2-(6,7-diamino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide. This product was immediately used for the succeeding reaction.

reactant | 2-(6-amino-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 549 mg | NC=1C(=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1)[N+](=O)[O-] | C15H16N4O4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
product | 2-(6,7-diamino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | NC=1C(=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1)N | C15H18N4O2
